US08183271B2
Ethyl E-6-[2-(4-cyanophenyl)ethyl]-8-(2-hydroxyphenyl)oct-7-enoate
5.91 ml (9.45 mmol) of a 1.6 M solution of n-butyllithium in hexane are slowly added to a solution of 1820 mg (4.05 mmol) of (2-hydroxybenzyl)triphenylphosphonium bromide in 15 ml of anhydrous THF at 0° C. Then, at this temperature, a solution of 1085 mg (3.38 mmol) of ethyl 8-(4-cyanophenyl)-6-formyloctanoate in 15 ml of THF is slowly metered in. After the reaction solution has been warmed to room temperature it is stirred for 12 hours and, after addition of some water, concentrated to dryness. The residue is taken up in ethyl acetate, washed with water and saturated sodium chloride solution and dried over sodium sulfate. After filtration, the solvent is concentrated to dryness. The resulting crude product is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 4:1→2:1). 1150 mg (2.79 mmol, 83% of theory) of a colorless solid are obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | (2-hydroxybenzyl)triphenylphosphonium bromide | 4.05 mmol, 1820 mg | [Br-].OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | ethyl 8-(4-cyanophenyl)-6-formyloctanoate | 3.38 mmol, 1085 mg | C(#N)C1=CC=C(C=C1)CCC(CCCCC(=O)OCC)C=O | C18H23NO3
reactant | water | O | H2O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | Ethyl E-6-[2-(4-cyanophenyl)ethyl]-8-(2-hydroxyphenyl)oct-7-enoate | C(#N)C1=CC=C(C=C1)CCC(CCCCC(=O)OCC)\C=C\C1=C(C=CC=C1)O | C25H29NO3
